US09340549B2
(S)-3-(4-((2-Iodophenyl)amino)cyclohexyl)-5,5-dimethyl-4-phenyloxazolidin-2-one
The starting material (see Intermediate M synthesis) was a mixture of S:R stereoisomers (˜3:1). To a vial charged with 2-iodoaniline (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (0.100 g, 0.457 mmol) were added (S)-5,5-dimethyl-3-(4-oxocyclohexyl)-4-phenyloxazolidin-2-one (0.131 g, 0.457 mmol), DCE (1.826 mL) and AcOH (0.039 mL, 0.685 mmol). The mixture was stirred at room temperature for 15 minutes prior to the addition of sodium triacetoxyborohydride (0.213 g, 1.004 mmol). The pale yellow suspension was then stirred overnight at room temperature. Water was added to the mixture and the resulting mixture was transferred to a separatory funnel and extracted with DCM (2×). The combined organic layers were dried with Na2SO4, filtered, and dried under reduced pressure. The material thus obtained was purified with a 25 g SNAP column (Biotage) ramping EtOAc in heptane (10% DCM throughout, 0-50%) providing the desired product as a mixture of isomers according to LC-MS (2:1 cis:trans). m/z (ESI) 491.1 (M+H)+.

reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
reactant | (S)-5,5-dimethyl-3-(4-oxocyclohexyl)-4-phenyloxazolidin-2-one | 0.457 mmol, 0.131 g | CC1([C@@H](N(C(O1)=O)C1CCC(CC1)=O)C1=CC=CC=C1)C | C17H21NO3
reactant | AcOH | 0.685 mmol, 0.039 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.004 mmol, 0.213 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Water | O | H2O
solvent | DCE | 1.826 mL | ClCCCl | C2H4Cl2
product | (S)-3-(4-((2-Iodophenyl)amino)cyclohexyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | IC1=C(C=CC=C1)NC1CCC(CC1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C23H27IN2O2
